US07704991B2
8-Methyl-3,8-diazabicyclo[3.2.1]octane (Intermediate Compound)
To a degassed by argon solution of 3-benzyl-8-methyl-3,8-diazabicyclo[3.2.1]octane (17.6 g, 0.08 mol) in methanol (50 ml), 10% Pd/C (1.0 g) was added and hydrogen passed into reaction mixture for 24 h. The catalyst was filtered off, the filtrate evaporated and the residue distilled on Büchi oven for distillation at 100° C. and 0.1 mbar. Yield 8.5 g (85%).

reactant | 3-benzyl-8-methyl-3,8-diazabicyclo[3.2.1]octane | 0.08 mol, 17.6 g | C(C1=CC=CC=C1)N1CC2CCC(C1)N2C | C14H20N2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 8-Methyl-3,8-diazabicyclo[3.2.1]octane | CN1C2CNCC1CC2 | C7H14N2
